US04285938
A mixture of 0.5 g (1.1 mmole) of 6-chloro-7,8-methylenedioxy-1-(p-sulfamylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine trifluoroacetamide, 0.1 g of sodium hydroxide and 50 ml of methanol was stirred at room temperature for 2 hours, poured into water and extracted with ethyl acetate. The combined extracts were washed with brine, dried and concentrated. The residue was chromatographed on 20 g of silica gel with a gradient of 1% to 5% of methanol in chloroform to give 0.35 g of pure 6-chloro-7,8-methylenedioxy-1-(p-sulfamylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine. This was suspended in 5 ml of dry methylene chloride, cooled to -60° C. and a solution of 5 ml of boron tribromide in methylene chloride (1 g/ml) was added dropwise with stirring under a nitrogen atmosphere. The mixture was stirred for about an hour at room temperature, recooled to -15° when excess methanol was added cautiously. The solvents were evaporated. The residue was azeotroped several times with methanol. The remaining solid was crystallized from methanol-acetonitrile ether to give 0.36 g (86%) of 6-chloro-7,8-dihydroxy-1-(p-sulfamylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide, m.p. 289°-290°.

reactant | 6-chloro-7,8-methylenedioxy-1-(p-sulfamylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine trifluoroacetamide | 1.1 mmole, 0.5 g | FC(C(=O)N)(F)F.ClC1=C2C(=CC=3C(CNCCC31)C3=CC=C(C=C3)S(N)(=O)=O)OCO2
reactant | sodium hydroxide | 0.1 g | [OH-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | 6-chloro-7,8-methylenedioxy-1-(p-sulfamylphenyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.35 g | ClC1=C2C(=CC=3C(CNCCC31)C3=CC=C(C=C3)S(N)(=O)=O)OCO2 | C17H17ClN2O4S
